US07091199B1
Preparation of 3-[3-(3-piperidin-1-yl-propoxy)-phenyl]-thieno[2,3-d]isoxazole (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, piperidine, and acetonitrile essentially as described above in example 56. Purity by LC/MS (APCI)=98%, [M+H]+=343.

reactant | 3-[3-(3-bromo-propoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C14H12BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-[3-(3-piperidin-1-yl-propoxy)-phenyl]-thieno[2,3-d]isoxazole | N1(CCCCC1)CCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C19H22N2O2S
